US08058304B2
(±)-CIS-2-(3,4-DIMETHOXYPHENETHOXY)CYCLOHEXYL BENZOATE (12)
A 250 mL round bottom flask equipped with an argon inlet and magnetic stir bar was charged with 2-hydroxycyclohexyl benzoate (7.39 g, 33.6 mmol) in anhydrous CH2Cl2 (50 mL). The solution was cooled to 0° C. prior to the successive addition of trimethylsilyl trifluoromethanesulfonate (3.0 mL, 1.9.4 mmol) and 3,4-dimethoxyphenethyl 2,2,2-trichloroacetimidate (16.5 g, 50.4 mmol) dissolved in anhydrous CH2Cl2 (30 mL). The reaction mixture was stirred at r.t. for 3 days. The reaction was then quenched by the addition of H2O (100 mL). The aqueous layer was extracted with CH2Cl2 (3×100 mL). The combined organic extracts were washed successively with brine (2×100 mL) and distilled water (100 mL), dried over anhydrous MgSO4, and concentrated under vacuum. The crude material was purified by flash column chromatography (EtOAc-hexanes, 1:7, v/v,) to afford a yellow oil (8.69 g, 67%). Rf 0.77 (EtOAc-hexanes, 1:2, v/v,); 1H-NMR (300 MHz, CDCl3) δ 1.36 (m, 2H), 1.62 (m, 4H), 1.85-2.03 (m, 2H), 2.75 (t, 2H), 3.53 (m, 1H), 3.62 (m, 1H), 3.72 (m, 2H), 3.79 (s, 6H, OCH3), 6.76 (m, 3H, Ar), 7.38 (m, 2H, Ar), 7.53 (m, 1H, Ar), 8.00 (m, 2H, Ar).

reactant | 2-hydroxycyclohexyl benzoate | 33.6 mmol, 7.39 g | C(C1=CC=CC=C1)(=O)OC1C(CCCC1)O | C13H16O3
reactant | trimethylsilyl trifluoromethanesulfonate | 3.0 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | 3,4-dimethoxyphenethyl 2,2,2-trichloroacetimidate | 50.4 mmol, 16.5 g | ClC(C(OCCC1=CC(=C(C=C1)OC)OC)=N)(Cl)Cl | C12H14Cl3NO3
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
product | (±)-CIS-2-(3,4-DIMETHOXYPHENETHOXY)CYCLOHEXYL BENZOATE | 8.69 g, 67% | C(C1=CC=CC=C1)(=O)O[C@H]1[C@H](CCCC1)OCCC1=CC(=C(C=C1)OC)OC | C23H28O5
